US06235771B1
A solution of methyl 7-bromo-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate (700 mg) in 1,2-dimethoxyethane (15 ml) and 6N hydrochloric acid was refluxed for 18 hours and cooled to room temperature. The solvent was evaporated under reduced pressure to give colorless crystals, which were collected by filtration. The crystals were washed with water, 2-propanol and diisopropylether to give colorless crystals of 7-bromo-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylic acid (634 mg).

reactant | methyl 7-bromo-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate | 700 mg | BrC=1C=CC2=C(C=C(CCS2(=O)=O)C(=O)OC)C1 | C12H11BrO4S
solvent | 1,2-dimethoxyethane | 15 ml | COCCOC | C4H10O2
solvent | hydrochloric acid | 6N | Cl | ClH
product | 7-bromo-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylic acid | 634 mg | BrC=1C=CC2=C(C=C(CCS2(=O)=O)C(=O)O)C1 | C11H9BrO4S
